US04072694
Preparation of 2-methyl-4-phenyl-4-benzoyl-1,3-dioxolane
A solution of 10.0 grams (41 millimoles)αmethylol benzoin, 20.0 grams (45 millimoles) paraldehyde, 0.5 grams p-toluenesulfonic acid and 100 ml. benzene was heated with magnetic stirring to 80°-90° C for 30 minutes under a Dean-Stark trap under conditions such that refluxing occurred, but the vapors condensed before reaching the trap. The temperature of the reaction mixture was then gradually raised to 120°-130° C and 8 ml. water was collected. The reaction mixture was then saturated with ammonia gas, the resulting salt precipitate removed by filtration on a Buchner funnel to provide a benzene solution of the reaction product. The benzene solvent was removed under vacuum. A yield of 11.8 grams of a yellow oil was obtained. The yellow oil was chromatographed on silica gel with 5% ethyl ether in n-hexane elution to provide 9.5 grams of an odorous yellow oil which distilled at 125°-130° C at 20μ vacuum pressure to provide 6.5 grams of a light yellow oil product.

reactant | αmethylol benzoin | 41 millimoles, 10.0 grams | C(O)C(C(C1=CC=CC=C1)=O)(O)C1=CC=CC=C1 | C15H14O3
reactant | paraldehyde | 45 millimoles, 20.0 grams | CC1OC(OC(O1)C)C | C6H12O3
catalyst | p-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methyl-4-phenyl-4-benzoyl-1,3-dioxolane | yield of 11.8 grams | CC1OCC(O1)(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H16O3
